US07129238B2
(RS)-(4-Bromo-2-fluoro-phenyl)-propoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-2-(4-bromo-2-fluoro-phenyl)-N-(4-cyano-benzyl)-2-propoxy-acetamide. Colorless oil. MS 405.3 ([M+H]+)

reactant | (RS)-(4-Bromo-2-fluoro-phenyl)-propoxy-acetic acid | BrC1=CC(=C(C=C1)C(C(=O)O)OCCC)F | C11H12BrFO3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-(4-bromo-2-fluoro-phenyl)-N-(4-cyano-benzyl)-2-propoxy-acetamide | BrC1=CC(=C(C=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OCCC)F | C19H18BrFN2O2
